US08304417B2
4-(6-chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline (Route 2)
Formamidine acetic acid salt (0.185 g) was added to a stirred solution of N1-(6-chloro-2,3-methylenedioxyphenyl)-2,4,6-trifluorobenzamidine (0.204 g) in toluene (5 ml) and the reaction mixture was heated to reflux for 16 hours. A second portion (0.185 g) of formamidine acetic acid salt was added and the reaction mixture was heated to reflux for a further 16 hours. Triethylamine (0.25 ml) was added and the reaction mixture was heated to reflux for a further 3 days. The resultant reaction mixture was cooled to ambient temperature and partitioned between methylene chloride (25 ml) and a saturated aqueous sodium bicarbonate solution (25 ml). The organic solution was washed with 10% aqueous citric acid (25 ml), dried over magnesium sulphate and evaporated. The resultant oil was purified by column chromatography on silica gel using increasingly polar mixtures of isohexane and ethyl acetate as eluent. There was thus obtained 4-(6-chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline (0.068 g).

reactant | Formamidine acetic acid salt | 0.185 g | C(C)(=O)O.C(=N)N
reactant | N1-(6-chloro-2,3-methylenedioxyphenyl)-2,4,6-trifluorobenzamidine | 0.204 g | ClC1=CC=C2C(=C1NC(C1=C(C=C(C=C1F)F)F)=N)OCO2 | C14H8ClF3N2O2
reactant | formamidine acetic acid salt | 0.185 g | C(C)(=O)O.C(=N)N
reactant | Triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(6-chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)F)F)OCO2 | C15H8ClF2N3O2
